US05849958
Preparation of 4-(p-Chlorophenyl)-4-methyl-2-pentynenitrile
A solution of 1,1-dibromo-3-(p-chlorophenyl)-3-methyl-1-butene (38.5 g, 0.113 mol) in tetrahydrofuran is treated with n-butyllithium (0.25 mol, 100 mL of a 2.5M solution in hexane) under nitrogen over 45 minutes while maintaining the temperature below -65° C., stirred overnight at dry ice/acetone bath temperature, treated dropwise with a solution of phenyl cyanate (14.89 g, 0.125 mol) in tetrahydrofuran over 30 minutes at -65° C. to -70° C., allowed to warm to 10° C., and diluted with ethyl acetate and 5% sodium hydroxide solution. The resultant mixture is extracted with ethyl acetate. The organic extracts are combined, washed sequentially with 5% sodium hydroxide solution and water, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a residue. The residue is distilled to give the title product as an oil (18.7 g, bp 110°-113° C./0.9 mm Hg, 80.7% yield)

reactant | 1,1-dibromo-3-(p-chlorophenyl)-3-methyl-1-butene | 0.113 mol, 38.5 g | BrC(=CC(C)(C)C1=CC=C(C=C1)Cl)Br | C11H11Br2Cl
reactant | n-butyllithium | C(CCC)[Li]
reactant | phenyl cyanate | 0.125 mol, 14.89 g | C1(=CC=CC=C1)OC#N | C7H5NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | [OH-].[Na+]
product | 4-(p-Chlorophenyl)-4-methyl-2-pentynenitrile | 18.7 g, 80.7% yield | ClC1=CC=C(C=C1)C(C#CC#N)(C)C | C12H10ClN
